US07884244B2
Fluoroethyl amine hydrochloride (5.50 g, 90% purity, 49.75 mmol) was added to a solution of diphenyl cyanocarbonimidate (11.84 g, 49.70 mmol) in CH3CN, followed by addition of diisopropylethyl amine (17.30 mL, 99.32 mmol). After stirring for 14 hours, the reaction mixture was concentrated and the residue was taken up in EtOAc. The organic layer was washed sequentially with H2O (3×75 mL) and aq 2N KOH (3×100 mL), then concentrated to give a viscous oil, which was solidified upon standing at room temperature. Recrystallization from ether gave the desired 1-(2-fluoro-ethyl)-2-phenyl-3-cyanoisourea intermediate. A portion of this intermediate was mixed with an appropriate amine in CH3CN. The resulting reaction mixture was refluxed for 14 hours. After cooling to room temperature, the mixture was diluted with EtOAc and the resulting organic phase was washed with H2O (3×75 mL) and then concentrated. The residue was purified by column chromatography using hex:EtOAc (2:3) as eluant to give a semi-pure product. Recrystallization from EtOAc afforded the final pure cyanoguanidine.

reactant | Fluoroethyl amine hydrochloride | 49.75 mmol, 5.50 g | Cl.FCCN
reactant | diphenyl cyanocarbonimidate | 49.70 mmol, 11.84 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | diisopropylethyl amine | 99.32 mmol, 17.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 1-(2-fluoro-ethyl)-2-phenyl-3-cyanoisourea | FCCNC(OC1=CC=CC=C1)=NC#N | C10H10FN3O
